datasets/10k__Tet_Int.csv
SMILES Labelled
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)CC)[H])[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)CC)[H])CC 10=20;20,21=21"
"[H][NH+:10](C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"C[O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H][O+:21]=[C:20]2[S][CH](C)[CH]([H])C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C)C([H])[CH](CC)[S]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"CN([C:20]([O-:10])(OC)[Cl:21])CC>>CN([C:20](=[O:10])OC)CC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C)C([H])[CH](CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])=C([H])C(C)C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C(C)/C([H])=C([H])\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[O][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(CC)[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(CC)[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C([H])[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](N1CC)([O-:10])[O:21]C)CC>>C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CC)CC.[O-:21]C 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C([H])C(CC)[S][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])C(CC)[S]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)CCCCCC)C)C)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)C)C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1 10=20;20,21=21"
"[H][S:10]C(C)C(C)C(C)[O][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C(C)[O]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"CC[NH:10][H].C[NH+:21]=[C:20]([O]C)[O][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]C)([O]C)[O][H] 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([O:21][H])[S][CH](C7=CC=CC=C7)C([H])[CH](C)[S]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH]([H])C(C)[S]2.C[O:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C([O:21]1)CC)C1=CC=CC=C1)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C([O-:21])CC)C1=CC=CC=C1)[H] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[O-:21]CCCCCC>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)[H] 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.[H][O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)=C([H])C([H])C(C)[NH+:10]1(C)>>[NH:10](C)C(C)C([H])/C([H])=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[NH][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[NH]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(C)=C(C)C([H])C(CC)[O+:10]1([Na])>>[O:10]([Na])C(CC)C([H])/C(C)=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(C)[NH][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(CC)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[O-:21][C:20]1(C)C([H])C([H])=C(C)C(CC)[O+:10]1([K])>>[O:10]([K])C(CC)/C(C)=C([H])\C([H])[C:20](C)=[O:21] 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)=C(C)C(C)C(C)[O+:10]1([K])>>[O:10]([K])C(C)C(C)/C(C)=C(C)\[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])[O]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"C[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[NH]CC.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[NH]CC 10=20;20,21=21"
"[O:10]([K])C(CCC)/C(C)=C(C)\C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)=C(C)C(CCC)[O+:10]1([K]) 10=20;20,21=21"
